US06107480
Zinc(II) 5-(4-hydroxyphenyl)-10,15,20-tris(4-sulfonatophenyl)porphyrin
To a mixture of 1 g of zinc 5-(4-hydroxyphenyl)-10,15,20-triphenylporphyrin and chloroform, there was added 60 μl of chlorosulfonic acid dissolved in 10 ml of chloroform at 0° C. After 12 h, the solution was poured on ice, and the organic phase was separated. Evaporation of the solvent yielded the product.

reactant | zinc 5-(4-hydroxyphenyl)-10,15,20-triphenylporphyrin | 1 g | OC1=CC=C(C=C1)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=CC=CC=C4)N3)C3=CC=CC=C3)=N2)C2=CC=CC=C2.[Zn]
reactant | chlorosulfonic acid | 60 μl | ClS(=O)(=O)O | ClHO3S
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | Zinc(II) 5-(4-hydroxyphenyl)-10,15,20-tris(4-sulfonatophenyl)porphyrin | OC1=CC=C(C=C1)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=CC=C(C=C4)S(=O)(=O)[O-])N3)C3=CC=C(C=C3)S(=O)(=O)[O-])=N2)C2=CC=C(C=C2)S(=O)(=O)[O-].[Zn+2].OC2=CC=C(C=C2)C=2C3=CC=C(N3)C(=C3C=CC(C(=C4C=CC(=C(C=1C=CC2N1)C1=CC=C(C=C1)S(=O)(=O)[O-])N4)C4=CC=C(C=C4)S(=O)(=O)[O-])=N3)C3=CC=C(C=C3)S(=O)(=O)[O-].[Zn+2].[Zn+2] | InChI=1S/2C44H30N4O10S3.3Zn/c2*49-29-9-1-25(2-10-29)41-33-17-19-35(45-33)42(26-3-11-30(12-4-26)59(50,51)52)37-21-23-39(47-37)44(28-7-15-32(16-8-28)61(56,57)58)40-24-22-38(48-40)43(36-20-18-34(41)46-36)27-5-13-31(14-6-27)60(53,54)55;;;/h2*1-24,45,48-49H,(H,50,51,52)(H,53,54,55)(H,56,57,58);;;/q;;3*+2/p-6
